US08754207B2
Preparation of 2,2-bis(4-chloro phenyl)-5-methyl-1,3-dioxane-5-carboxylic acid. Formula (IIb4)
In a round bottom flask, (0.9 g) 3-hydroxy-2-(hydroxymethyl)-2-methylpropanoic acid and (9.8 mg) p-toluene sulfonic acid and 2 ml toluene was taken. The reaction mixture was stirred at room temperature and subsequently 2 g (1 equiv) bis-(4-chlorophenyl)-dimethoxymethane [IIa4] diluted with 5 ml toluene was added through droping funnel. The reaction mixture was heated at reflux temperature and the water was removed azeotropically under Dean Stark. Continuous removal and addition of toluene was done up to 2 hrs. Then the reaction mixture was cooled at room temperature to obtain off white solid. It was filtered and washed with toluene and then water.

reactant | 3-hydroxy-2-(hydroxymethyl)-2-methylpropanoic acid | 0.9 g | OCC(C(=O)O)(C)CO | C5H10O4
reactant | p-toluene sulfonic acid | 9.8 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | bis-(4-chlorophenyl)-dimethoxymethane | 2 g, 1 equiv | ClC1=CC=C(C=C1)C(OC)(OC)C1=CC=C(C=C1)Cl | C15H14Cl2O2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | 2,2-bis(4-chloro phenyl)-5-methyl-1,3-dioxane-5-carboxylic acid | ClC1=CC=C(C=C1)C1(OCC(CO1)(C(=O)O)C)C1=CC=C(C=C1)Cl | C18H16Cl2O4
